US07964645B2
Preparation of C,C-Bis-(4-trifluoromethyl-phenyl)-methylamine
A suspension of 5 mmol magnesium-turnings in 10 ml diethyl ether was treated with 5 mmol 4-bromobenzotrifluoride to form the corresponding Grignard-reagent. This reagent was slowly added to a cooled solution of 5 mmol 4-(trifluoromethyl)benzonitrile in 10 ml of tetrahydrofuran at −70° C. After 1 hour at −70° C., the reaction mixture was stirred additional 2 hours at room temperature and then refluxed overnight. The resulting mixture was cooled again to 0° C. and diluted with 10 ml of methanol and 10 mmol sodium borohydride were added. After stirring for 2 hours at room temperature, the mixture was poured into 100 ml of 0.5 M aqueous hydrochloric acid and extracted with diethyl ether. The aqueous phase was adjusted to pH=10 by addition of diluted aqueous sodium hydroxide and extracted 3 times with dichloromethane. Chromatography (SiO2; dichloromethane/methanol) yielded the title compound as a slightly brown foam.

reactant | magnesium | 5 mmol | [Mg] | Mg
reactant | 4-bromobenzotrifluoride | 5 mmol | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 4-(trifluoromethyl)benzonitrile | 5 mmol | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
reactant | sodium borohydride | 10 mmol | [BH4-].[Na+]
reactant | hydrochloric acid | 0.5 M, 100 ml | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | C,C-Bis-(4-trifluoromethyl-phenyl)-methylamine | Yield=2% | FC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)C(F)(F)F)N)(F)F | C15H11F6N
